US07745489B2
Benzyl(E,4S)-4-[(2-hydroxydodecanoyl)amino]oct-2-enoate.
To a stirred solution of 2-hydroxyhexadecanoic acid (0.54 g, 2.0 mmol) and (E,4S)-1-(benzyloxy)-1-oxooct-2-en-4-aminium chloride (0.28 g, 1.0 mmol) in CH2Cl2 (5 mL), Et3N (0.3 mL) and subsequently WSCI (0.57 g, 3.0 mmol) and HOBt (0.32 g, 2.0 mmol) were added at 0° C. The reaction mixture was stirred for 1 h at 0° C. and at room temperature for 1 day. The organic layer was washed with brine, dried over Na2SO4 and evaporated under reduced pressure. The residue was purified by column chromatography (CHCl3/MeOH 98/2). Yield 0.33 g (75%); [α]D−10.3 (c 0.5 CHCl3);

reactant | 2-hydroxyhexadecanoic acid | 2.0 mmol, 0.54 g | OC(C(=O)O)CCCCCCCCCCCCCC | C16H32O3
reactant | (E,4S)-1-(benzyloxy)-1-oxooct-2-en-4-aminium chloride | 1.0 mmol, 0.28 g | [Cl-].C(C1=CC=CC=C1)OC(\C=C\[C@H](CCCC)[NH3+])=O
reactant | HOBt | 2.0 mmol, 0.32 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
solvent | Et3N | 0.3 mL | CCN(CC)CC | C6H15N
product | Benzyl(E,4S)-4-[(2-hydroxydodecanoyl)amino]oct-2-enoate | OC(C(=O)N[C@H](/C=C/C(=O)OCC1=CC=CC=C1)CCCC)CCCCCCCCCC | C27H43NO4
